US06562827B1
a) Methyl 2-(4-(Pyrid-4-yl)piperazin-1-yl)nicotinate
3.4 g of methyl chloronicotinate, 5.5 g of potassium carbonate, 3.3 g of 4-pyridylpiperazine and a spatula tipful of 18-crown-6 were heated at 100° C. for 5 h in 75 ml of DMF and then stirred at room temperature for 60 h. The excess potassium carbonate was filtered off, the filtrate was concentrated and the residue was partitioned between water and ethyl acetate. After drying the organic phase over magnesium sulfate and concentrating the solvent, 3.9 g (82%) of the product were obtained.

reactant | methyl chloronicotinate | 3.4 g | ClC1=C(C(=O)OC)C=CC=N1 | C7H6ClNO2
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-pyridylpiperazine | 3.3 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | Methyl 2-(4-(Pyrid-4-yl)piperazin-1-yl)nicotinate | 3.9 g, 82% | N1=CC=C(C=C1)N1CCN(CC1)C1=C(C(=O)OC)C=CC=N1 | C16H18N4O2
